US04766233
To a stirred solution of 15.8 g (0.083 mole) of 2-chloro-4-fluoro-5-nitrophenol in 90 mL of acetone was added 17.1 g (0.12 mole) of potassium carbonate followed by a solution of 21.0 g (0.12 mole) of 2-iodopropane in 10 mL of acetone. After complete addition, the reaction mixture was heated at 60° C. for approximately 18 hours. The mixture was cooled and poured into a mixture of ice and concentrated hydrochloric acid. The resultant mixture was extracted with ethyl acetate, and the extract was washed with a 1N sodium hydroxide solution. The washed extract was dried over anhydrous magnesium sulfate and was filtered. The solvent was evaporated under reduced pressure to leave 17.7 g of 4-chloro-2-fluoro-5-(1-methylethoxy)nitrobenzene as a solid.

reactant | 2-chloro-4-fluoro-5-nitrophenol | 0.083 mole, 15.8 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])O | C6H3ClFNO3
reactant | potassium carbonate | 0.12 mole, 17.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 0.12 mole, 21.0 g | IC(C)C | C3H7I
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 90 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-chloro-2-fluoro-5-(1-methylethoxy)nitrobenzene | 17.7 g | ClC1=CC(=C(C=C1OC(C)C)[N+](=O)[O-])F | C9H9ClFNO3
